US04472433
Preparation of ethyl 2-[2-nitro-3-(3,5-dichlorophenoxy)phenyl]acetate
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.), 3,5-dichlorophenol (7.4 g.), anhydrous potassium carbonate (8.5 g.) and cupric oxide (1 g.) was treated in a similar manner to the above to give oil of the captioned compound (7.6 g.).

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 3,5-dichlorophenol | 7.4 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl 2-[2-nitro-3-(3,5-dichlorophenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=CC(=CC(=C1)Cl)Cl)CC(=O)OCC | C16H13Cl2NO5
